US05753664
3,5-Dimethyl-2-[2-[4-(4-trifluoromethylbenzoyl)-phenyl]ethyl]-4(3H)-quinazolinone
To a solution of 3,5-dimethyl-2-[2-[4-(4-trifluoromethylbenzoyl)phenyl]vinyl]-4(3H)-quinazolinone (897 mg) in THF: ethyl acetate: methanol (1:1:1) (60 ml) was added 10% Pd/C (50% hydrous) (179 mg) and the mixture was stirred under hydrogen at room temperature for 2 hours. The catalyst was then filtered off and the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane: ethyl acetate =2:1) and recrystallized from ethyl acetate-methanol to provide 307 mg of white powder.

reactant | 3,5-dimethyl-2-[2-[4-(4-trifluoromethylbenzoyl)phenyl]vinyl]-4(3H)-quinazolinone | 897 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)C=CC1=CC=C(C=C1)C(C1=CC=C(C=C1)C(F)(F)F)=O | C26H19F3N2O2
solvent | THF ethyl acetate methanol | 60 ml | C1CCOC1.C(C)(=O)OCC.CO
catalyst | Pd/C | 179 mg | [Pd] | Pd
product | 3,5-Dimethyl-2-[2-[4-(4-trifluoromethylbenzoyl)-phenyl]ethyl]-4(3H)-quinazolinone | 307 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)CCC1=CC=C(C=C1)C(C1=CC=C(C=C1)C(F)(F)F)=O | C26H21F3N2O2
